US07462624B2
Step B: N-pentyl-5-[3-(trifluoromethyl)-1H-1,2,4-triazol-5-yl]-1H-imidazol-4-amine
The mixture of methyl 4-(pentylamino)-1H-imidazole-5-carbimidothioate (0.53 g, 2.4 mmol) and trifluoroacetic acid hydrazide (0.45 g, 3.5 mmol) in ethanol (10 mL) was refluxed overnight. The reaction mixture was concentrated to yield the product as slightly green viscous oil. LCMS calculated for C11H16F3N6(M+H): 289.1; found: 289.1.

reactant | methyl 4-(pentylamino)-1H-imidazole-5-carbimidothioate | 2.4 mmol, 0.53 g | C(CCCC)NC=1N=CNC1C(=N)SC | C10H18N4S
reactant | trifluoroacetic acid hydrazide | 3.5 mmol, 0.45 g | FC(C(=O)NN)(F)F | C2H3F3N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-pentyl-5-[3-(trifluoromethyl)-1H-1,2,4-triazol-5-yl]-1H-imidazol-4-amine | C(CCCC)NC=1N=CNC1C1=NC(=NN1)C(F)(F)F | C11H15F3N6
